US07842696B2
DIPEA (68 mg, 0.53 mmol) was added to a stirred solution of 2-amino-1-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethanone TFA salt (76 mg, 0.18 mmol) in DMF (1 mL). HOBT (24 mg, 0.18 mmol) and EDCI.HCl (34 mg, 0.18 mmol) were then added at room temperature. After 2 minutes, phenyl acetic acid (20 mg, 0.15 mmol) was added and the resulting mixture was stirred at room temperature for 4 hrs. Cold water (20 mL) was then added and the product was extracted with EtOAc and the organic layer was washed with brine. The organic phase was dried over Na2SO4 and concentrated under reduced pressure. the resulting residue was purified by column chromatography (using silica gel 60-120 mesh and 1% methanol in chloroform as eluent) to afford 28 mg (43.7% yield) of N-{2-Oxo-2-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethyl}-2-phenyl-acetamide. LCMS Purity: 94.1%, 1H NMR (CDCl3): δ 7.8-7.7 (d, 1H). 7.6 (m, 2H), 7.4-7.2 (m, 5H), 6.5 (bd, 1H), 4.1 (m, 1H), 4.0 (m, 2H), 3.8 (m, 1H), 3.8-3.4 (m, 6H), 3.3 (t, 1H), 3.2-3.1 (m, 2H).

reactant | DIPEA | 0.53 mmol, 68 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | 2-amino-1-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethanone TFA salt | 0.18 mmol, 76 mg | OC(=O)C(F)(F)F.NCC(=O)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O
reactant | HOBT | 0.18 mmol, 24 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI.HCl | 0.18 mmol, 34 mg | CCN=C=NCCCN(C)C.Cl
reactant | phenyl acetic acid | 0.15 mmol, 20 mg | C1(=CC=CC=C1)CC(=O)O | C8H8O2
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | water | 20 mL | O | H2O
product | N-{2-Oxo-2-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethyl}-2-phenyl-acetamide | 28 mg, 43.7% yield | O=C(CNC(CC1=CC=CC=C1)=O)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O | C22H22F3N3O3
